### PR TITLE
Proof of Lemma 10.2.5

### PR DESCRIPTION
**Pull request by js2357**
- I had to weaken the conclusion of `tsum_volume_czBall3_le` because `maximal_theorem` (Lemma 10.2.1) is formalized with a weaker constant than appears in the blueprint. I changed the statement and proof of Lemma 10.2.5 in the blueprint, but I didn't change Lemma 10.2.1 because I wasn't prepared to fix its proof.
- I had to strengthen the assumptions in `eLpNorm_czRemainder_le` and `tsum_eLpNorm_czRemainder_le`, but that's because the original formalization was missing an assumption present in the blueprint, so I don't think that should cause any problems.

### CODE REVIEW

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 1]
```diff
@@ -126,14 +146,24 @@ lemma czBall_pairwiseDisjoint (ha : 4 ≤ a) {hX : GeneralCase f α} :
...
+lemma iUnion_czBall3 (ha : 4 ≤ a) (hX : GeneralCase f α) :
     ⋃ i, czBall3 ha hX i = globalMaximalFunction volume 1 f ⁻¹' Ioi α :=
   ball_covering ha (isOpen_MB_preimage_Ioi hX) |>.choose_spec.choose_spec.2.1
 
-lemma not_disjoint_czBall7 (ha : 4 ≤ a) {hX : GeneralCase f α} {i : ℕ} :
+lemma not_disjoint_czBall7 (ha : 4 ≤ a) (hX : GeneralCase f α) (i : ℕ) :
     ¬ Disjoint (czBall7 ha hX i) (globalMaximalFunction volume 1 f ⁻¹' Ioi α)ᶜ :=
   ball_covering ha (isOpen_MB_preimage_Ioi hX) |>.choose_spec.choose_spec.2.2.1 i
 
+private lemma czRadius_pos (ha : 4 ≤ a) (hX : GeneralCase f α) (i : ℕ) : czRadius ha hX i > 0 := by
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: For a mathlib lemma, I'd write `0 < czRadius ha hX i`. (This matters for e.g. `rw?`.)

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 2]
```diff
@@ -150,37 +180,35 @@ lemma mem_czBall3_finite (ha : 4 ≤ a) {hX : GeneralCase f α} {y : X}
...
 
-lemma MeasurableSet.czPartition (ha : 4 ≤ a) (hX : GeneralCase f α) (i : ℕ) :
+@[measurability]
+private lemma MeasurableSet.czPartition (ha : 4 ≤ a) (hX : GeneralCase f α) (i : ℕ) :
     MeasurableSet (czPartition ha hX i) := by
   refine i.strong_induction_on (fun j hj ↦ ?_)
   unfold _root_.czPartition
-  apply measurableSet_ball.diff ∘ (MeasurableSet.biUnion (to_countable _) hj).union
-  exact MeasurableSet.biUnion (to_countable _) (fun _ _ ↦ measurableSet_ball)
+  measurability
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: (I assume measurability is not really slow: then this looks good to me.)

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 3]
```diff
@@ -301,74 +371,198 @@ lemma czApproximation_add_czRemainder (ha : 4 ≤ a) {x : X} :
...
+  simp only [czApproximation, hX, reduceDIte, eventually_const]
+  exact le_trans (enorm_integral_le_lintegral_enorm f) <| hα.trans α_le_mul_α
 
 /-- Equation (10.2.17) specialized to the general case. -/
 lemma norm_czApproximation_le_infinite (ha : 4 ≤ a) {hf : BoundedFiniteSupport f}
-    (hX : GeneralCase f α) (hα : 0 < α) :
+    (hX : GeneralCase f α) :
     ∀ᵐ x, ‖czApproximation f ha α x‖ₑ ≤ 2 ^ (3 * a) * α := by
-  sorry
+  have h₁ : ∀ᵐ x, (∃ i, x ∈ czPartition ha hX i) → ‖czApproximation f ha α x‖ₑ ≤ 2 ^ (3 * a) * α :=
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Given the proof shows the forall statement, can you change `h1` to be a forall statement instead? (Then you can also make `x` and the hypothesis part of the have, and not part of the conclusion.

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 4]
```diff
@@ -301,74 +371,198 @@ lemma czApproximation_add_czRemainder (ha : 4 ≤ a) {x : X} :
...
+      have le_α := hx
+      rw [← mem_iUnion, iUnion_czPartition, mem_preimage, mem_Ioi, not_lt] at le_α
+      simp only [czApproximation, hX, reduceDIte, hx]
+      refine le_of_tendsto lim.enorm <| Eventually.of_forall fun i ↦ ?_
+      apply le_trans (enorm_integral_le_lintegral_enorm f)
+      exact le_trans (laverage_le_globalMaximalFunction (x_mem_ball i)) <| le_α.trans α_le_mul_α
+  simpa only [← or_imp, em, forall_const] using eventually_and.mpr ⟨h₁, h₂⟩
+
+/-- Part of Lemma 10.2.5, equation (10.2.17) (both cases). -/
+lemma norm_czApproximation_le (ha : 4 ≤ a) {hf : BoundedFiniteSupport f} (hα : ⨍⁻ x, ‖f x‖ₑ ≤ α) :
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Pre-existing: would you like to rename this lemma and its predecessor to `enorm_foo` instead of `norm_foo`?

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean [hunk 5]
```diff
@@ -301,74 +371,198 @@ lemma czApproximation_add_czRemainder (ha : 4 ≤ a) {x : X} :
...
+    ∀ᵐ x, ‖czApproximation f ha α x‖ₑ ≤ 2 ^ (3 * a) * α :=
+  by_cases (norm_czApproximation_le_infinite ha (hf := hf)) (norm_czApproximation_le_finite hα)
+
+-- Equation (10.2.18), finite case
+private lemma eLpNorm_czApproximation_le_finite {ha : 4 ≤ a} (hf : BoundedFiniteSupport f)
+    (hα : 0 < α) (hX : ¬ GeneralCase f α) :
+    eLpNorm (czApproximation f ha α) 1 volume ≤ eLpNorm f 1 volume := calc
+  _ = ‖⨍ x, f x‖ₑ * volume univ := by
+    unfold czApproximation; simp [hX, eLpNorm_const _ one_pos.ne' (NeZero.ne volume)]
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean:734]: optional: can you move the `czApproximation` into the simp?

**Review by grunweg — COMMENTED** [review]
Thanks for the PR, looks good! I left a few comments on places where you could clean up things slightly. These changes are not required for merging.

**Comment by grunweg** [comment]
@fpvandoorn Any downside to the weaker constant? (I guess not, but am not 100% sure.)

**Comment by grunweg** [comment]
Since #393 (which proves a dependency of this lemma) changes its hypotheses slightly, it's probably best to merge that PR first. Thanks for understanding!

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 1 above)
Comment (js2357) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Fixed.

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 2 above)
Comment (js2357) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Using measurability adds about 1 second, so I switched it back.

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 3 above)
Comment (js2357) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Done.

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 4 above)
Comment (js2357) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Done.

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 5 above)
Comment (js2357) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean:734]: No, that doesn't work. (I don't understand why either.)

File: Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean (hunk 4 above)
Comment (grunweg) [reply Carleson/TwoSidedCarleson/WeakCalderonZygmund.lean]: Thank you!

**Comment by grunweg** [comment]
(Looks like WeakCalderonZygmund still needs another fix.)

**Comment by grunweg** [comment]
Thanks again!
